US06291721B1
Preparation of 1-(p-Chlorophenyl)-1-cyclopropyl-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)-1,3-butadiene
A stirred solution of diethyl (4-fluoro-3-phenoxybenzyl)phosphonate (2.64 g, 7.8 mmol) and p-chloro-β-cyclopropyl-α-fluorocinnamaldehyde (1.35 g, 6 mmol) in tetrahydrofuran (20 mL) is treated with sodium methoxide (562 mg, 9.36 mmol) at 0° C., stirred at room temperature overnight, quenched with 2 N aqueous hydrochloric acid, and extracted with ethyl acetate. The organic extract is washed sequentially with water, 2 N aqueous hydrochloric acid and water, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain a residue. Flash chromatography of the residue on silica gel eluting with 1:9 ethyl acetate/hexanes gives the title product as a syrup (2.15 g, 87.7% yield) which is identified by NMR spectral analyses.

reactant | diethyl (4-fluoro-3-phenoxybenzyl)phosphonate | 7.8 mmol, 2.64 g | FC1=C(C=C(CP(OCC)(OCC)=O)C=C1)OC1=CC=CC=C1 | C17H20FO4P
reactant | p-chloro-β-cyclopropyl-α-fluorocinnamaldehyde | 6 mmol, 1.35 g | ClC1=CC=C(C(=C(C=O)F)C2CC2)C=C1 | C12H10ClFO
reactant | sodium methoxide | 9.36 mmol, 562 mg | C[O-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(p-Chlorophenyl)-1-cyclopropyl-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)-1,3-butadiene | 2.15 g, 87.7% yield | ClC1=CC=C(C=C1)C(=C(C=CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)F)C1CC1 | C25H19ClF2O
